US07553873B2
EDCI coupling between 3-Methylbenzofuran 2 carboxylic acid (139 mg, 0.79 mmol) and 2-[(4′-Amino-biphenyl-4-carbonyl)-amino]-pentanedioic acid di-tert-butyl ester (358 mg, 0.79 mmol, 1 equiv.) was carried out according to the procedure in step C of Example 5 to give 2-({4′-[(3-Methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-carbonyl}-amino)-pentanedioic acid di-tert-butyl ester in 12.4% yield (60 mg). MS (ESI) m/z 611.

reactant | EDCI | CCN=C=NCCCN(C)C | C8H17N3
reactant | 3-Methylbenzofuran 2 carboxylic acid | 0.79 mmol, 139 mg | CC1=C(OC2=C1C=CC=C2)C(=O)O | C10H8O3
reactant | 2-[(4′-Amino-biphenyl-4-carbonyl)-amino]-pentanedioic acid di-tert-butyl ester | 0.79 mmol, 358 mg, 1 equiv. | C(C)(C)(C)OC(C(CCC(=O)OC(C)(C)C)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C26H34N2O5
product | 2-({4′-[(3-Methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-carbonyl}-amino)-pentanedioic acid di-tert-butyl ester | 12.4% yield | C(C)(C)(C)OC(C(CCC(=O)OC(C)(C)C)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C=CC=C2)=O | C36H40N2O7
